US08044068B2
To a mixture of 2-amino-5-chlorobenzoic acid (25.3 g), acetic acid (9.0 mL), and water (650 mL) was added an aqueous solution (130 mL) of potassium cyanate (15.5 g), and the mixture was stirred at room temperature for 2 days. Sodium hydroxide (59 g) was added over 30 min. Water (100 mL) was added, and then the precipitated solids were collected by filtration. The resulting solids were suspended in water (700 mL), followed by addition of 4 M hydrochloric acid (55 mL), and then the precipitated solids were collected by filtration to obtain 6-chloroquinazoline-2,4-diol (19.1 g).

reactant | 2-amino-5-chlorobenzoic acid | 25.3 g | NC1=C(C(=O)O)C=C(C=C1)Cl | C7H6ClNO2
reactant | acetic acid | 9.0 mL | C(C)(=O)O | C2H4O2
reactant | potassium cyanate | 130 mL, 15.5 g | [O-]C#N.[K+]
reactant | Sodium hydroxide | 59 g | [OH-].[Na+]
solvent | Water | 100 mL | O | H2O
solvent | water | 650 mL | O | H2O
product | 6-chloroquinazoline-2,4-diol | 19.1 g | ClC=1C=C2C(=NC(=NC2=CC1)O)O | C8H5ClN2O2
